US09023869B2
The title compound was made in accordance with General Method 1. 2-(3-Fluoro-4-methylcarbamoyl-phenylamino)-2-methyl-propionic acid (1.27 g) was dissolved in DCM. EDC1-HCl (1.91 g) was added to it and the reaction mixture was stirred for 5 min at RT. 4-Amino-2-(trifluoromethyl)benzonitrile (1.00 g) was added portionwise and stirring was continued for 5 h at RT. Water was added to the reaction mixture, and the product was extracted with DCM. The combined organic layer was washed with water, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by silica gel chromatography (100-200 mesh silica gel) eluting with 5% MeOH-DCM to obtain 650 mg of 4-[1-(4-Cyano-3-trifluoromethyl-phenylcarbamoyl)-1-methyl-ethylamino]-2-fluoro-N-methyl-benzamide, HPLC, Column: YMC ODS AQ, 4.6×250 mm, 5 μm, Mobile Phase A: 0.05% TFA, Mobile Phase B: ACN, Gradient: 10% to 90% B in 10 min, hold for 10 min, 90% to 10% B in 1 min, Flow Rate: 1 mL/min, Retention time: 11.174 min, M+1: 423.

reactant | 2-(3-Fluoro-4-methylcarbamoyl-phenylamino)-2-methyl-propionic acid | 1.27 g | FC=1C=C(C=CC1C(NC)=O)NC(C(=O)O)(C)C | C12H15FN2O3
reactant | 4-Amino-2-(trifluoromethyl)benzonitrile | 1.00 g | NC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
reactant | Water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-[1-(4-Cyano-3-trifluoromethyl-phenylcarbamoyl)-1-methyl-ethylamino]-2-fluoro-N-methyl-benzamide | 650 mg | C(#N)C1=C(C=C(C=C1)NC(=O)C(C)(C)NC1=CC(=C(C(=O)NC)C=C1)F)C(F)(F)F | C20H18F4N4O2
